Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Petechiae, Thrombocytopenia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ year old man without significant past 
medical history who developed skin and oral petechiae, found to 
have severe thrombocytopenia. 

Mr ___ was in his USOH until approximately two weeks PTA 
when he developed a flu-like illness. This was characterized by 
a fever, headache, myalgias and arthralgias. These symptoms were 
intermittent for several days. His wife and other close contacts 
had a similar presentation ___ to him, although their syndrome 
also included a cough. Patient had some intermittent, vague LUQ
pain in addition to other symptoms - not experienced by any 
others. Pt took Theraflu (acetaminophen, chlorpheniramine 
maleate, dextromethorphan, pseudoephedrine) and 
acetaminophen/ibuprofen for his symptoms. Saw his PCP who 
checked him for tick borne illnesses, but no medications were 
prescribed.
He had a recent travel to ___ 5 weeks ___. No known 
history of tick bites. After visiting his PCP, he felt great - 
back to baseline.

The night ___ to presentation, he was going to bed when he 
noted a sore in his mouth. Soon noticed a few more. In the 
morning he noted some petechiae along her arms (particularly in 
AC fossa) and legs. He looked these symptoms up on the internet, 
saw they may be related to low platelets and presented to the 
ED. He denies any swelling in the extremities. No glandular 
swelling.
No nausea, vomiting, BRBPR, hematochezia, melena, hematuria. No 
other new medication changes, OTC supplements, or herbal 
medications. NO joint swelling. No trauma history.

ED COURSE:
- Initial Vitals: 0 98.1 65 124/84 19 100% RA 
- Exam: NR
- Labs: Platelets: 5. WBC 6.8, 55% lymph predominance. ALT: 97 
AP: 79 Tbili: 0.5 Alb: 4.2 AST: 63 LDH: 475 Hapto 145. 
- Heme was consulted: no e/o schistos for lysis. Recommended 
steroids, but no IVIG
- Given 2 plt transfusions in the ED without improvement in 
level.
- Pt was given 4mg dexamethasone, CTX and doxycycline
- Vitals ___ to transfer: 98.7 71 ___ 97% RA 
  
REVIEW OF SYSTEMS: Positive per HPI, otherwise negative
 
Past Medical History:
Hyperhidrosis
Sinusitis
 
Social History:
___
Family History:
- NO history of bleeding or clotting disorders in the family
- Hyperthryoidism (sister)
- Breast cancer (Mother)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals:  T: 98.1 BP: 124/84 HR: 65 RR: 02 sat: 100% on room air
GENERAL: NAD, awake and alert
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva,
patent nares, MMM, good dentition. Petechia on hard palate and
sever blood blisters on b/l OP side wall, one on tongue. 
NECK: FROM, supple, no JVD
LYMPH: no cervical, supraclavicular, axillary, or inguinal LAD 
BACK: no spinal process tenderness, no CVAT
CARDIAC: RRR, nl S1 S2, no MRG 2+ rad/DP pulses b/l
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use
ABD: Soft, NT/ND, NABS, no r/g ? spleen tip
EXT: WWP no c/c/e 
NEURO: CN II-XII tested and intact, strength ___ throughout,
sensation grossly normal, gait intact 
SKIN: petechiae in b/l arms (most AC fossa and forearm), b/l
shins, some on back. No purpura or large hematoma/brusing.

DISCHARGE PHYSICAL EXAM
Vitals:  98.1 144/97 72 18 100 RA
GENERAL: NAD, awake and alert, sitting up at bedside
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition. Few petechiae on hard palate. 

NECK: FROM, supple, no JVD
LYMPH: no cervical, supraclavicular, axillary, or inguinal LAD 
BACK: no spinal process tenderness, no CVAT
CARDIAC: RRR, nl S1 S2, no MRG 2+ rad/DP pulses b/l
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use 

ABD: Soft, NT/ND, NABS, no r/g; slightly limited by position
EXT: WWP no c/c/e 
NEURO: CN II-XII grossly intact, strength apparently full, 
movements well-coordinated
GU: No foley
SKIN: Scattered ecchymoses
 
Pertinent Results:
ADMISSION LABS:
___ 02:30AM BLOOD WBC-6.8 RBC-4.38* Hgb-12.6* Hct-37.5* 
MCV-86 MCH-28.8 MCHC-33.6 RDW-12.1 RDWSD-38.0 Plt Ct-5*#
___ 02:30AM BLOOD Neuts-29* Bands-0 Lymphs-55* Monos-11 
Eos-0 Baso-0 Atyps-5* ___ Myelos-0 AbsNeut-1.97 
AbsLymp-4.08* AbsMono-0.75 AbsEos-0.00* AbsBaso-0.00*
___ 02:30AM BLOOD ___ PTT-32.0 ___
___ 02:30AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 02:30AM BLOOD Ret Aut-1.1 Abs Ret-0.05
___ 02:30AM BLOOD Glucose-99 UreaN-8 Creat-0.7 Na-140 K-4.7 
Cl-100 HCO3-26 AnGap-14
___ 02:30AM BLOOD Albumin-4.2
___ 02:30AM BLOOD ALT-97* AST-63* LD(LDH)-475* AlkPhos-79 
TotBili-0.5
___ 02:30AM BLOOD Hapto-145
___ 10:09AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 10:09AM BLOOD HIV Ab-NEG
___ 10:09AM BLOOD CMV VL-NOT DETECT
___ 10:09AM BLOOD HIV1 VL-NOT DETECT
___ 02:30AM BLOOD HBV VL-NOT DETECT
___ 02:43AM BLOOD Lactate-1.4

DISCHARGE LABS:
___ 06:25AM BLOOD WBC-14.5* RBC-3.79* Hgb-11.4* Hct-33.2* 
MCV-88 MCH-30.1 MCHC-34.3 RDW-14.0 RDWSD-41.5 Plt Ct-45*#
___ 07:00AM BLOOD ___ PTT-27.2 ___
___ 07:05AM BLOOD Glucose-93 UreaN-13 Creat-0.8 Na-137 
K-3.8 Cl-96 HCO3-26 AnGap-15
___ 07:00AM BLOOD QUANTIFERON-TB GOLD-PND

IMAGING THIS ADMISSION
- ___ (___): There is no evidence of acute large territory 
infarction, hemorrhage, edema, or mass. The ventricles and sulci 
are normal in size and configuration. No osseous abnormalities 
seen. The paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear. The orbits are unremarkable. IMPRESSION: No 
acute intracranial abnormalities, specifically no evidence of 
intracranial hemorrhage. 

- CXR (___): No acute intrathoracic process.
 
- Renal US:
1. Spleen and liver are not enlarged. 
2. Right renal lesion is likely a cyst measuring up to 1.2 cm.  
Follow-up 
renal ultrasound in 6 months is recommended to reassess. 
RECOMMENDATION(S):   Follow-up renal ultrasound in 6 months is 
recommended 
 
Brief Hospital Course:
This is a ___ without significant PMH with recent viral illness 
who developed skin and oral petechiae due to severe 
thrombocytopenia. He was diagnosed with ITP and treated for 
same. He spent several days in the hospital awaiting count 
recovery, and was discharged today with platelets of ~45 and 
very close followup with the hematology team.

# Severe thrombocytopenia
# ITP: heme consulted and felt that disease consistent with ITP: 
Presented with petechiae and oral blood blisters in the setting 
of a recent vital illness. Unilineage defect; WBC/RBC normal. 
Hematology was consulted in the ED, smear was not suggestive of 
TTP. Started on dexamethasone and given lack of response, was 
started on IVIG on HD#3.  He received two doses of IVIG (each 
1g/kg=75g) and a total of dexamethasone 40mg for four days. His 
platelet count remained <5 despite IVIG and dexamethasone and 
heme recommended continuing steroids with prednisone 1mg/kg 
(80mg) and initiating Nplate (Romiplostim 3 mcg/kg x1) which is 
a weekly drug. He received his first dose on ___.  His platelet 
count remained <5 as of ___, but improved significantly over 
the past 2 days ___ to discharge, with Plt of 45 as of 
discharge. Heme is currently planning to monitor the ascent of 
his Plt with the above measures whilst considering other 
therapies including rituxan or splenectomy with or without 
needing a bone marrow biopsy.  HIV, HBV VL, EBV PCR neg, Quant 
gold pending.
- Hematology follow up

# Hematuria: On HD #3, patient developed painless light punch 
colored urine without clots. This abated overtime and he did not 
require urinary drainage catheter.
- Repeat UA after a reasonable interval of normal platelet 
count, with further workup for hematuria if numbers fail to 
improve

# Acute anemia, possibly acute blood loss anemia in setting of 
hematuria et al: Mild with Hb ~11 at discharge. Thought related 
to likely low grade multifocal mucosal blood loss and 
ecchymoses, with component of inflammation.
- Trend CBC, with further workup for anemia if fails to improve

# Transaminitis: Improved/downtrended over the course of his 
admission. This was thought secondary to recent viral illness. 
Hepatitis serologies, EBV, CMV negative.
- Trend to resolution, with further workup for transaminitis if 
fails to normalize.
 
# Hyperhidrosis: Mild. Held oxybutynin here.

# Asymptomatic small renal cyst: Found to have right renal cyst 
(1.2cm) on abdominal US ___. ___ MD reportedly discussed this 
with the patient. Letter sent.
- Will require f/u US in ___ months. 

>30 minutes spent coordinating discharge home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 5 mg PO DAILY:PRN Hidrosis 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  PredniSONE 80 mg PO DAILY 
RX *prednisone 20 mg 4 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
3.  Oxybutynin 5 mg PO DAILY:PRN Hidrosis  
4.Outpatient Lab Work
CBC standing twice a week
results to Dr. ___ ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP
Hematuria
Mild anemia
Small cyst on kidney (seen on ultrasound this admission)

 
Discharge Condition:
Ambulating, feeling well, tolerating a regular diet; positive 
outlook on future with stated clear understanding of plan of 
care and importance of followup appointments.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with low platelet count which increases 
risk of spontaneous bleeding when the level is very low. You 
were diagnosed with ITP. You received a combination of 
treatments including IVIG, steroids, and rombiplastim and your 
platelet count eventually improved.

You are being discharged with close followup with the 
hematologists. Please make sure to make it to all appointments. 
Please call the hematologists if you have any questions; you can 
also be in touch with me and my office should the need arise.
 
Followup Instructions:
___